US07423159B2
A mixture of 1-(4-nitrobenzyl)-1H-tetrazole (5 g), 10% palladium carbon (500 mg), ethanol (100 ml) and tetrahydrofuran (100 ml) was stirred under a hydrogen atmosphere at room temperature for 4 hrs. Palladium carbon was removed from the reaction mixture by filtration, and the filtrate was concentrated. Recrystallization of the residue from ethyl acetate-hexane gave 1-(4-aminobenzyl)-1H-tetrazole (3.03 g, 71%) as yellow prism crystals. melting point: 138-140° C.

reactant | 1-(4-nitrobenzyl)-1H-tetrazole | 5 g | [N+](=O)([O-])C1=CC=C(CN2N=NN=C2)C=C1 | C8H7N5O2
reactant | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium carbon | 500 mg | [C].[Pd]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(4-aminobenzyl)-1H-tetrazole | 3.03 g, 71% | NC1=CC=C(CN2N=NN=C2)C=C1 | C8H9N5
